US08378097B2
3-Chloro-6-piperazin-1-ylpyridazine (9.93 g, 50 mmol) was suspended in THF (80 mL), and water (18.9 mL), [(1-ethoxycyclopropyl)oxy]trimethylsilan (17.423 g, 100 mmol), acetic acid (8.5 mL, 150 mmol) and sodium cyanoborohydride (4.08 g, 65 mmol) were added. The mixture was heated at 62° C. for 16 h, solvents removed in vacuo and the remainder stirred with DCM (100 mL) and water (75 mL). The pH was adjusted to 10, the organic phase was separated, washed with water and dried over magnesium sulphate. Evaporation in vacuo yielded 3-chloro-6-(4-cyclopropylpiperazin-1-yl)pyridazine as a solid which was recrystallized from acetonitrile to yield the product, 8.18 g, 69%.

reactant | 3-Chloro-6-piperazin-1-ylpyridazine | 50 mmol, 9.93 g | ClC=1N=NC(=CC1)N1CCNCC1 | C8H11ClN4
reactant | [(1-ethoxycyclopropyl)oxy]trimethylsilan | 100 mmol, 17.423 g | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | acetic acid | 150 mmol, 8.5 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 65 mmol, 4.08 g | C(#N)[BH3-].[Na+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | water | 18.9 mL | O | H2O
product | 3-chloro-6-(4-cyclopropylpiperazin-1-yl)pyridazine | ClC=1N=NC(=CC1)N1CCN(CC1)C1CC1 | C11H15ClN4
